US03962248
14.8 g of 2-(2-amino-phenyl)-thienone, 23.8 g of solid potassium hydroxide and 19.6 g of hydrazine hydrate are heated to the boil at reflux in 180 cc of diethylene glycol for 3 hours. After diluting the reaction mixture with ice water, extraction is effected with ether. The ether phase is washed thrice with water, dried over sodium sulphate and concentrated. 2-(2-aminobenzyl)-thiophene is obtained in the form of a light yellow oil having a B.P. of 128°-130° at 0.1 mm of Hg.

reactant | 2-(2-amino-phenyl)-thienone | 14.8 g | NC1=C(C=CC=C1)C=1S(C=CC1)=O | C10H9NOS
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine hydrate | 19.6 g | O.NN
reactant | diethylene glycol | 180 cc | C(COCCO)O | C4H10O3
product | 2-(2-aminobenzyl)-thiophene | NC1=C(CC=2SC=CC2)C=CC=C1 | C11H11NS
